US09062032B2
To a mixture of 150 mg of methyl 4-{3-[4-({[2-({3-[(isopropylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]propyl}benzoate and 3.5 mL of THF was added 0.045 mL of triethylamine and 28 mg of triphosgene under ice cooling, followed by stirring for 3 hours at room temperature. Thereafter, 0.080 mL of ethyl isonipecotate was added to the reaction mixture, followed by stirring for 18 hours at room temperature. An aqueous sodium hydrogen carbonate solution was added to the reaction mixture, followed by stirring for 1 hour at room temperature, and then extraction was performed using chloroform. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by basic silica gel column chromatography (NH silica gel manufactured by FUJI SILYSIA CHEMICAL LTD. (amino type silica gel (treated with aminopropyl)), (hexane:ethyl acetate=1:1)), thereby obtaining 178 mg of ethyl 1-{isopropyl[3-({3-[(4-{3-[4-(methoxycarbonyl)phenyl]propyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl]carbamoyl}piperidine-4-carboxylate.

reactant | methyl 4-{3-[4-({[2-({3-[(isopropylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]propyl}benzoate | 150 mg | C(C)(C)NCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C37H41N3O4S
reactant | triphosgene | 28 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | ethyl isonipecotate | 0.080 mL | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 0.045 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | ethyl 1-{isopropyl[3-({3-[(4-{3-[4-(methoxycarbonyl)phenyl]propyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl]carbamoyl}piperidine-4-carboxylate | 178 mg | C(C)(C)N(C(=O)N1CCC(CC1)C(=O)OCC)CC1=CC(=CC=C1)C(NC=1SC2=C(C1C(NC1=CC=C(C=C1)CCCC1=CC=C(C=C1)C(=O)OC)=O)CCCC2)=O | C46H54N4O7S
